US08580762B2
(1R,2S,3R,5R)-3-(4-amino-7H-pyrrolo[2,3-d]pyrimidin-7-yl)-5-(((3-(2-(6-chloro-5-(trifluoromethyl)-1H-benzo[d]imidazol-2-yl)ethyl)cyclobutyl)(isopropyl)amino)methyl)cyclopentane-1,2-diol
7-((3aS,4R,6R,6aR)-6-(((3-(2-(6-chloro-5-(trifluoromethyl)-1H-benzo[d]imidazol-2-yl)ethyl)cyclobutyl)(isopropyl)amino)methyl)-2,2-dimethyltetrahydro-3aH-cyclopenta[d][1,3]dioxol-4-yl)-N-(2,4-dimethoxybenzyl)-7H-pyrrolo[2,3-d]pyrimidin-4-amine (525 mg, 0.683 mmol) was dissolved in a mixture of Trifluoroacetic Acid (9 ml) and Water (1 ml) which had been pre-cooled at 0° C. in an ice bath. The solution was stirred at 0° C. for 30 minutes, then warmed to RT. After 4 h at RT, the mixture was concentrated. The residue was taken up in 20 ml MeOH and concentrated. This procedure was repeated twice and the residue placed on high vacuum. The material was taken up in 15 ml MeOH (gave a slurry) and was treated with 500 mg K2 CO3 and 15 drops of water. The mixture was allowed to stir for 1 hr, during which time the solution was found to be basic. The mixture was filtered through a fine frit, the solids were washed with 10 ml MeOH and the filtrate was concentrated to yield an off white solid. The material was left on high vacuum overnight. The crude material was purified by flash chromatography (SiO2, eluting with 12% 7N NH3 in CH3OH/CH2Cl2) to give a colorless glass/stiff foam. 1H NMR (400 MHz, MeOD) δH ppm 8.06 (s, 1 H), 7.89 (d, J=2.07 Hz, 1 H), 7.69 (d, J=2.28 Hz, 1 H), 7.21 (dd, J=3.42, 1.76 Hz, 1 H), 6.59 (d, J=3.52 Hz, 1 H), 4.33 (t, J=6.84 Hz, 1 H), 3.89 (q, J=5.25 Hz, 1 H), 3.03 (m, 0.5 H), 2.89 (m, 2 H), 2.70 (m, 0.5 H), 2.49 (m, 1 H), 2.40 (m, 2 H), 2.27 (br. s., 2 H), 2.16 (d, J=7.26 Hz, 4 H), 2.06 (m, 2 H), 1.91 (m, 2 H), 1.62 (m, 1 H), 1.52 (m, 1 H).

reactant | 7-((3aS,4R,6R,6aR)-6-(((3-(2-(6-chloro-5-(trifluoromethyl)-1H-benzo[d]imidazol-2-yl)ethyl)cyclobutyl)(isopropyl)amino)methyl)-2,2-dimethyltetrahydro-3aH-cyclopenta[d][1,3]dioxol-4-yl)-N-(2,4-dimethoxybenzyl)-7H-pyrrolo[2,3-d]pyrimidin-4-amine | 0.683 mmol, 525 mg | ClC=1C(=CC2=C(NC(=N2)CCC2CC(C2)N(C(C)C)C[C@H]2C[C@H]([C@H]3[C@@H]2OC(O3)(C)C)N3C=CC2=C3N=CN=C2NCC2=C(C=C(C=C2)OC)OC)C1)C(F)(F)F | C41H49ClF3N7O4
solvent | Trifluoroacetic Acid | 9 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | Water | 1 ml | O | H2O
catalyst | water | 15 drops | O | H2O
product | (1R,2S,3R,5R)-3-(4-amino-7H-pyrrolo[2,3-d]pyrimidin-7-yl)-5-(((3-(2-(6-chloro-5-(trifluoromethyl)-1H-benzo[d]imidazol-2-yl)ethyl)cyclobutyl)(isopropyl)amino)methyl)cyclopentane-1,2-diol | NC=1C2=C(N=CN1)N(C=C2)[C@H]2[C@@H]([C@@H]([C@H](C2)CN(C(C)C)C2CC(C2)CCC2=NC1=C(N2)C=C(C(=C1)C(F)(F)F)Cl)O)O | C29H35ClF3N7O2
